US05650428
A mixture of (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)butanamide (114.2 mg), ethanol (8 ml), and 2N NaOH (650 ml) was stirred at room temperature overnight under argon. The reaction mixture was concentrated under reduced pressure. It was repeated 3 times in order to remove ethanol completely that a small amount of purified water was added to the residue, and then the product was concentrated under reduced pressure. The residue was dissolved in purified water and washed with ethyl acetate. The aqueous layer was acidified with 1N HCl and then extracted with ethyl acetate. The combined ethyl acetate layers were washed with a saturated saline solution and dried over Na2SO4. Then, the solvent was evaporated under reduced pressure to obtain (RS)-N-(4-(carboxymethyl) phenyl)-2-(4-chlorobenzenesulfonylamino) butanamide (91.1 mg).

reactant | (RS)-2-(4-chlorobenzenesulfonylamino)-N-(4-(ethoxycarbonylmethyl)phenyl)butanamide | 114.2 mg | ClC1=CC=C(C=C1)S(=O)(=O)NC(C(=O)NC1=CC=C(C=C1)CC(=O)OCC)CC | C20H23ClN2O5S
reactant | NaOH | 2N, 650 ml | [OH-].[Na+]
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | (RS)-N-(4-(carboxymethyl) phenyl)-2-(4-chlorobenzenesulfonylamino) butanamide | 91.1 mg | C(=O)(O)CC1=CC=C(C=C1)NC(C(CC)NS(=O)(=O)C1=CC=C(C=C1)Cl)=O | C18H19ClN2O5S
